US04582837
2-(2'-Methoxy-4'-aminosulfonyl-phenyl)-imidazo[4,5-b]pyridine hydrochloride
Prepared analogously to Example 47 starting from 2-methoxy-4-chlorosulfonyl-benzoic acid, ammonia, and 2,3-diamino-pyridine.

reactant | 2-methoxy-4-chlorosulfonyl-benzoic acid | COC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)Cl | C8H7ClO5S
reactant | ammonia | N | H3N
reactant | 2,3-diamino-pyridine | NC1=NC=CC=C1N | C5H7N3
product | 2-(2'-Methoxy-4'-aminosulfonyl-phenyl)-imidazo[4,5-b]pyridine hydrochloride | Cl.COC1=C(C=CC(=C1)S(=O)(=O)N)C=1NC=2C(=NC=CC2)N1 | InChI=1S/C13H12N4O3S.ClH/c1-20-11-7-8(21(14,18)19)4-5-9(11)12-16-10-3-2-6-15-13(10)17-12;/h2-7H,1H3,(H2,14,18,19)(H,15,16,17);1H
